US07439232B2
A mixture of 1,2-dihydro-4-[(3-fluoro-4-methoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one (synthesized as described in WO0236602; 4.11 g, 0.0174 mol), acetic anhydride (41 mL) and acetic acid (41 mL) was stirred at 135° C. for 8 hours and at room temperature for 12 hours. After being concentrated, the reaction mixture was diluted with toluene and then concentrated again. To the resulting residue, methanol (400 mL) and a 25 wt % methanol solution of sodium methoxide (0.37 mL) were added and stirred for 20 hours. The reaction mixture was concentrated and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to 1:1) to give 1-acetyl-4-[(3-fluoro-4-methoxyphenyl)methyl]-3-hydroxy-5-methyl-1H-pyrazole (960 mg, 20%) as a colorless powder.

reactant | 1,2-dihydro-4-[(3-fluoro-4-methoxyphenyl)methyl]-5-methyl-3H-pyrazol-3-one | 0.0174 mol, 4.11 g | FC=1C=C(C=CC1OC)CC=1C(NNC1C)=O | C12H13FN2O2
reactant | acetic anhydride | 41 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 41 mL | C(C)(=O)O | C2H4O2
product | 1-acetyl-4-[(3-fluoro-4-methoxyphenyl)methyl]-3-hydroxy-5-methyl-1H-pyrazole | 960 mg, 20% | C(C)(=O)N1N=C(C(=C1C)CC1=CC(=C(C=C1)OC)F)O | C14H15FN2O3
